US07179819B2
A mixture of pentafluorophenyl 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetate (404.0 mg, 0.840 mmol), ethyl 4-(4-fluoro-2-pyrrolidinyl)methoxy-3-methoxybenzoate (250.0 mg, 0.840 mmol), Et3 N (141 μl, 1.009 mmol) in DMF (4.0 mL) was stirred for 1 hr at room temp. The mixture was diluted with EtOAc, washed with water, brine, and dried over Na2SO4. The solvent was removed under a reduced pressure and the residue was chromatographed on silica-gel with n-hexane:EtOAc (1:3, v/v) to afford 502 mg (q.y.) of ethyl 4-[[4-fluoro-1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinyl]methoxy]-3-methoxybenzoate as a yellow oil. To a stirred solution of this compound in THF (8.0 mL) and H2O (2.0 mL) was added LiOH (60.4 mg, 2.520 mmol), and the mixture was stirred at room temp. overnight, and 50° C. for 1 day. The mixture was diluted with CHCl3, and extracted with 1 N NaOH. The aqueous layer was acidified by the addition of 1 N HCl and extracted with CHCl3. The extract was washed with brine and dried over Na2SO4. The solvent was removed under a reduced pressure and the obtained crude solid was recrystallized from EtOAc—CHCl3-EtOH-n-hexane to afford 294.8 mg (62%) 45 as a white crystalline powder. IR (KBr) 2958, 2937, 1687, 1601, 1531, 1454, 1419, 1267, 1214, 1029 cm−1; 1H-NMR (400 MHz, DMSO-d6) δ 1.86–2.09 (m, 5H), 2.06 (s, 3H), 2.25 (s, 3H), 3.47–3.67 (m, 6H), 3.76 (s, 3H), 4.05–4.12 (m, 2H), 4.30–4.31 (m, 1H), 6.51 (s, 1H), 6.55 (s, 1H), 6.73–6.95 (m, 2H), 7.11–7.17 (m, 2H), 7.64 (s, 1H), 7.79 (d, J=7.8 Hz, 1H), 7.99 (d, J=7.8 Hz, 1H), 8.47 (s, 1H), 8.55 (s, 1H); MS (FAB) m/z 566 (M++1); Anal. Calcd for C30H32FN3O7.1/2H2O: C, 62.71; H. 5.79; F, 3.31; N, 7.31. Found: C, 63.13; H. 6.17; F, 3.12; N, 7.04.

reactant | pentafluorophenyl 3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetate | 0.840 mmol, 404.0 mg | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)OC1=C(C(=C(C(=C1F)F)F)F)F | C23H17F5N2O4
reactant | ethyl 4-(4-fluoro-2-pyrrolidinyl)methoxy-3-methoxybenzoate | 0.840 mmol, 250.0 mg | FC1CC(NC1)COC1=C(C=C(C(=O)OCC)C=C1)OC | C15H20FNO4
solvent | DMF | 4.0 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | ethyl 4-[[4-fluoro-1-[3-methoxy-4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinyl]methoxy]-3-methoxybenzoate | 502 mg | FC1CC(N(C1)C(CC1=CC(=C(C=C1)NC(=O)NC1=C(C=CC=C1)C)OC)=O)COC1=C(C=C(C(=O)OCC)C=C1)OC | C32H36FN3O7
